US07244843B2
Step B. Preparation of N,N-diethyl-4-ethenyl-2-methoxybenzamide
To a stirring degassed solution of N,N-diethyl-4-chloro-2-methoxybenzamide (65 mg, 0.35 mmol), potassium fluoride (134 mg, 2.3 mmol), and 2,4,6-trivinylcyclotriboroxane pyridine complex (132 mg, 0.35 mmol) in 1,4-dioxane (3 mL) was added bis(tri-t-butylphosphine)palladium (5 mg,0.01 mmol). The reaction was heated to reflux for 5 h and then cooled to room temperature. The reaction was diluted with brine and extracted with EtOAc (3×5 mL). The organic layers were combined, dried over Na2SO4, and conc. in vacuo to a pale yellow oil. The oil was purified by flash chromatography (SiO2, 0–50% EtOAc in hexanes) to give 40 mg of the desired product as a colorless oil. MS (ESI) 234 (M+H).

reactant | N,N-diethyl-4-chloro-2-methoxybenzamide | 0.35 mmol, 65 mg | C(C)N(C(C1=C(C=C(C=C1)Cl)OC)=O)CC | C12H16ClNO2
reactant | potassium fluoride | 2.3 mmol, 134 mg | [F-].[K+]
reactant | 2,4,6-trivinylcyclotriboroxane pyridine complex | 0.35 mmol, 132 mg | B1(OB(OB(O1)C=C)C=C)C=C.C1=CC=NC=C1
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | brine | [Cl-].[Na+].O
catalyst | bis(tri-t-butylphosphine)palladium | 0.01 mmol, 5 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | N,N-diethyl-4-ethenyl-2-methoxybenzamide | 40 mg | C(C)N(C(C1=C(C=C(C=C1)C=C)OC)=O)CC | C14H19NO2
